US07307094B2
2-(2-Methylimidazol-1-yl)ethylamine was prepared from 2-methylimidazole and 2-chloroethylamine hydrochloride using the method described in Step B of Example 1. This material was obtained as a light yellow oil in 47% yield. 1H NMR (300 MHz, CD3OD) δ 6.95 (br s, 1H), 6.82 (br s, 1H), 4.90 (bs, 2H), 3.90 (t, J=6.9 Hz, 2H), 2.93 (t, J=6.9 Hz, 2H), 2.35 (s, 3H); MS (APCI) m/z 126 [M+H]+.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | 2-chloroethylamine hydrochloride | Cl.ClCCN
product | 2-(2-Methylimidazol-1-yl)ethylamine | 47% yield | CC=1N(C=CN1)CCN | C6H11N3
